US07638625B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate hydrochloride (2d)
0.5 g (0.69 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate are dissolved in 5 ml isopropanol at ambient temperature. After the addition of 95.2 μl hydrochloric acid (12.4 mol/l in ethanol) a white precipitate is formed spontaneously. After 12 hours at ambient temperature the precipitate formed is filtered off and dried at 70° C.

reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.69 mmol, 0.5 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C35H45ClF3N7O4
reactant | hydrochloric acid | 12.4 mol/l, 95.2 μl | Cl | ClH
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate hydrochloride | Cl.O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | InChI=1S/C35H45ClF3N7O4.ClH/c1-42-16-18-43(19-17-42)25-7-11-44(12-8-25)32(47)30(22-23-20-27(35(37,38)39)31(40)28(36)21-23)50-34(49)45-13-9-26(10-14-45)46-15-6-24-4-2-3-5-29(24)41-33(46)48;/h2-5,20-21,25-26,30H,6-19,22,40H2,1H3,(H,41,48);1H/t30-;/m1./s1
